US05866594
While 23 ml of sodium methoxide (28% solution in methanol) in 40 ml of anhydrous methanol was stirred vigorously, 40 ml of a mixed methanol solution containing 4.0 g (21.1 mmol) of 2,5-dimethoxybenzaldehyde and 9.7 g (84.2 mmol) of methyl azidoacetate was added dropwise at -15° C. After completion of the addition, the reaction mixture was stirred for 2 hours. Then the reaction mixture was poured into a saturated ammonium chloride solution and extracted with ethyl acetate. The extract was washed with water and dried over magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel chromatography (hexane:ethyl acetate=10:1) to provide 3.1 g of methyl 2,5-dimethoxyphenyl-α-azidocinnamate.

reactant | sodium methoxide | 23 ml | C[O-].[Na+]
reactant | 2,5-dimethoxybenzaldehyde | 21.1 mmol, 4.0 g | COC1=C(C=O)C=C(C=C1)OC | C9H10O3
reactant | methyl azidoacetate | 84.2 mmol, 9.7 g | N(=[N+]=[N-])CC(=O)OC | C3H5N3O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 40 ml | CO | CH4O
solvent | methanol | 40 ml | CO | CH4O
product | methyl 2,5-dimethoxyphenyl-α-azidocinnamate | 3.1 g | COC1=C(C=C(C=C1)OC)C(=C(C(=O)OC)N=[N+]=[N-])C1=CC=CC=C1 | C18H17N3O4
